US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.26 g, 0.488 mmol) and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.25 g, 0.73 mmol), and potassium carbonate (0.20 g, 1.46 mmol) in toluene/water (10/1)(5 mL). Heat to reflux. After 3 days, cool and evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane and water. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10/1 ethyl acetate/methanol to give the title compound: Rf=0.28 (silica gel, 10/1 ethyl acetate/methanol).

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 0.488 mmol, 0.26 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO6S
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 0.73 mmol, 0.25 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | potassium carbonate | 1.46 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | toluene water | 5 mL | C1(=CC=CC=C1)C.O
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H43Cl2FN4O5
